US07420066B2
Step 2: Preparation of 2-[3-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetamide
A mixture of 2-(3-bromo-phenyl)-acetamide (600 mg, 2.8 mmol), potassium acetate (63 mg, 0.28 mmol, 0.1 eq), bis(pinacolato)diboron (783 mg, 3.08 mmol, 1.1 eq), in anhydrous DMF was degassed under N2 for 10 min. Then palladium acetate (824 mg, 8.41 mmol, 3 eq) was added, and the mixture degassed an additional 10 min. The reaction was then heated to 80° C. for 12 h. The reaction mixture was then poured into ethyl acetate and water. Extracted with ethyl acetate (3×20 mL). The combined organic layer was dried with sodium sulfate, filtered through celite pad and concentrated in vacuo. The crude material was used directly to the next step. Yield: (473 mg, 65%). LC-MS (MH+=262).

reactant | 2-(3-bromo-phenyl)-acetamide | 2.8 mmol, 600 mg | BrC=1C=C(C=CC1)CC(=O)N | C8H8BrNO
reactant | potassium acetate | 0.28 mmol, 63 mg, 0.1 eq | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 3.08 mmol, 783 mg, 1.1 eq | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
catalyst | palladium acetate | 8.41 mmol, 824 mg, 3 eq | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-[3-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetamide | CC1(OB(OC1(C)C)C=1C=C(C=CC1)CC(=O)N)C | C14H20BNO3
